US09085523B2
N-(2-chloroethyl)-N-methyl-octadecyl ammonium chloride
Thionyl chloride (0.45 mL) was dissolved in 1,2-dichloroethane (3.0 mL). The solution of N-(2-hydroxyethyl)-N-methyl-octadecylamine (1.0 g) in 1,2-dichloroethane (7.0 mL) was added thereto at 0° C., followed by stirring at 50° C. for 30 minutes. The reaction solution was concentrated under reduced pressure and azeotrope was carried out with toluene twice to obtain the title compound (1.2 g) having the following physical property values.

reactant | Thionyl chloride | 0.45 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-hydroxyethyl)-N-methyl-octadecylamine | 1.0 g | OCCN(C)CCCCCCCCCCCCCCCCCC | C21H45NO
solvent | 1,2-dichloroethane | 3.0 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 7.0 mL | ClCCCl | C2H4Cl2
product | N-(2-chloroethyl)-N-methyl-octadecyl ammonium chloride | 1.2 g | [Cl-].ClCC[NH+](C)CCCCCCCCCCCCCCCCCC | InChI=1S/C21H44ClN.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-20-23(2)21-19-22;/h3-21H2,1-2H3;1H
